US06297261B1
4-Methylphenylboronic acid
To a solution of 4-iodotoluene (35 g, 160.5 mmol) in diethyl ether (400 mL) was added n-butyllithium (2 M in pentane, 88.3 mL, 176.6 mmol) at 0° C. After stirring at 0° C. for another 15 min the solution was cooled to -60° C. and tributylborate (60.6 mL, 224.7 mmol) was added. The cooling bath was removed and the reaction allowed to heat up to room temperature. The solution was acidified with hydrochloric acid (2 N, 280 mL) and the organic phase separated off. The aqueous phase was extracted with diethyl ether 2×125 mL). The combined organic phases were extracted with sodium hydroxide (1 N, 5×50 mL). The combined aqueous extracts were acidified to give 18.6 g of the desired material.

reactant | 4-iodotoluene | 160.5 mmol, 35 g | IC1=CC=C(C=C1)C | C7H7I
reactant | n-butyllithium | 176.6 mmol, 2 M, 88.3 mL | C(CCC)[Li]
reactant | tributylborate | 224.7 mmol, 60.6 mL | C(CCC)OB(OCCCC)OCCCC | C12H27BO3
solvent | diethyl ether | 400 mL | C(C)OCC | C4H10O
product | 4-Methylphenylboronic acid | 18.6 g | CC1=CC=C(C=C1)B(O)O | C7H9BO2
